US08389553B2
Methyl 4-({[(2,4-dinitrophenyl)sulfonyl]amino}methyl)benzoate
A solution of methyl 4-(aminomethyl)benzoate (1.00 g, 4.96 mmol), 2,4-dinitrobenzenesulfonyl chloride (1.39 g, 5.21 mmol), DCM (16.5 mL) and pyridine (481 uL, 5.95 mmol) was treated with Hunig's base (2.17 mL, 12.4 mmol) and stirred for 2 h. The reaction was concentrated, taken into EtOAc and washed with 2M aq. HCl 2×, water, brine, dried (MgSO4) and concentrated to afford a brown oil used crude in the next reaction. MS: cal'd 396 (MH+), exp 396 (MH+).

reactant | methyl 4-(aminomethyl)benzoate | 4.96 mmol, 1.00 g | NCC1=CC=C(C(=O)OC)C=C1 | C9H11NO2
reactant | 2,4-dinitrobenzenesulfonyl chloride | 5.21 mmol, 1.39 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)Cl | C6H3ClN2O6S
reactant | pyridine | 5.95 mmol, 481 uL | N1=CC=CC=C1 | C5H5N
reactant | Hunig's base | 12.4 mmol, 2.17 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 16.5 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-({[(2,4-dinitrophenyl)sulfonyl]amino}methyl)benzoate | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])S(=O)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C15H13N3O8S
